US05064826
0.976 g (0.0075 mole) of 5-amino-3-methylthio-1H-1,2,4-triazole are dissolved in 6 ml of acetic acid, then 1.368 g (0.075 mole) of ethyl 3-oxo-3,4,5,6-tetrahydro-2H-thiopyrane-4-carboxylate are added and the reaction mixture is boiled for 30 minutes. The precipitated product is filtered off from the hot solution, washed with water and recrystallized from dimethylformamide. Thus 1.2 g (62.9%) of 2-methylthio-5,6,7,9-tetrahydrothiopyrano[3,4-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one are obtained which melt at 294°-297° C.

reactant | 5-amino-3-methylthio-1H-1,2,4-triazole | 0.0075 mole, 0.976 g | NC1=NC(=NN1)SC | C3H6N4S
reactant | ethyl 3-oxo-3,4,5,6-tetrahydro-2H-thiopyrane-4-carboxylate | 0.075 mole, 1.368 g | O=C1CSCCC1C(=O)OCC | C8H12O3S
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 2-methylthio-5,6,7,9-tetrahydrothiopyrano[3,4-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 1.2 g, 62.9% | CSC1=NN2C(N=C3C(C2)=CCSC3=O)=N1 | C9H8N4OS2
